US04503073
5-Chloro-7-(4-fluorobenzoyl)indolin-2-one
A slurry of 30.5 g (0.091 mol) of 5-chloro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one in 2.5 l of tetrahydrofuran was stirred vigorously and treated with 285 g of wet Raney nickel for 6 minutes. The mixture was filtered and the filter cake obtained was washed with 200 ml of tetrahydrofuran. The resulting filtrate was evaporated to leave 20.2 g of residue. This residue was recrystallized from acetone to give 16.8 g (64%) of the titled compound as white, fluffy needles, mp. 222°-225° C.

reactant | 5-chloro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one | 0.091 mol, 30.5 g | ClC=1C=C2C(C(NC2=C(C1)C(C1=CC=C(C=C1)F)=O)=O)SC | C16H11ClFNO2S
solvent | tetrahydrofuran | 2.5 l | O1CCCC1 | C4H8O
catalyst | Raney nickel | 285 g | [Ni] | Ni
product | 5-Chloro-7-(4-fluorobenzoyl)indolin-2-one | 20.2 g | ClC=1C=C2CC(NC2=C(C1)C(C1=CC=C(C=C1)F)=O)=O | C15H9ClFNO2
